US07119207B2
6-Methoxy-3-methyl-1,1a,3,7b-tetrahydro-3-aza-cyclopropa[a]naphthalen-2-one
A suspension of 7.0 gm (42.0 mmol) potassium iodide and 4.89 gm (38.0 mmol) trimethylsulfoxonium chloride in 30 ml of DMSO under nitrogen was treated portionwise with 1.69 gm (42.0 mmol) of 60% sodium hydride in mineral oil. The mixture was stirred for one hour and then treated with 2.0 gm (11.0 mmol) 6-Methoxy-1-methyl-1H-quinolin-2-one followed by stirring for 0.5 hours at ambient temperature and 4 days at 90° C. The reaction mixture was allowed to cool to ambient temperature before quenching into ice followed by extraction into ether. The ether layer was washed with brine, dried over sodium sulfate and evaporated. The residue was partitioned between acetonitrile and pentane. The acetonitrile layer was concentrated. The residue was partitioned between 1:1 hexane/ethyl acetate and 50% saturated (sat'd) brine solution. The organic layer was washed with saturated brine, dried over sodium sulfate and evaporated in vacuo to afford 1.6 gm of a mixture of desired product and starting material. The residue was purified by silica gel chromatography eluting with 7/3 hexane/ethyl acetate to afford 972 mg (44%). Mass spectrum APCI m/e 204 (p+1).

reactant | potassium iodide | 42.0 mmol, 7.0 gm | [I-].[K+]
reactant | trimethylsulfoxonium chloride | 38.0 mmol, 4.89 gm | [Cl-].C[S+](=O)(C)C
reactant | sodium hydride | 42.0 mmol, 1.69 gm | [H-].[Na+]
reactant | 6-Methoxy-1-methyl-1H-quinolin-2-one | 11.0 mmol, 2.0 gm | COC=1C=C2C=CC(N(C2=CC1)C)=O | C11H11NO2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 6-Methoxy-3-methyl-1,1a,3,7b-tetrahydro-3-aza-cyclopropa[a]naphthalen-2-one | 1.6 gm | COC1=CC=C2N(C(C3C(C2=C1)C3)=O)C | C12H13NO2
